US07754188B2
Step F 4-(4-Chlorophenyl)-3-(3-cyanophenyl)-2-azidobutane
To a solution of 4-(4-chlorophenyl)-3-(3-cyanophenyl)-2-methylsulfonyloxybutane (1.1 kg, 2.9 mol) in N,N-dimethylformamide (4.1 L) was added sodium azide (378 g, 5.8 mol), and the reaction was heated at 70° C. for 7 h. After cooling to room temperature, the reaction mixture was diluted with isopropyl acetate (11 L) and was washed with sodium bicarbonate (50% saturated aqueous solution) and water (5.5 L). The organic layer was separated and treated with Darco KB (254 g) overnight. The mixture was filtered over solka floc, washed with toluene and concentrated. The residue was diluted with toluene (1 L) and was loaded onto a silica gel pad, which was eluted with 90:10 hexane/ethyl acetate to give the title compound.

reactant | 4-(4-chlorophenyl)-3-(3-cyanophenyl)-2-methylsulfonyloxybutane | 2.9 mol, 1.1 kg | ClC1=CC=C(C=C1)CC(C(C)OS(=O)(=O)C)C1=CC(=CC=C1)C#N | C18H18ClNO3S
reactant | sodium azide | 5.8 mol, 378 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 4.1 L | CN(C=O)C | C3H7NO
solvent | isopropyl acetate | 11 L | C(C)(=O)OC(C)C | C5H10O2
product | 4-(4-Chlorophenyl)-3-(3-cyanophenyl)-2-azidobutane | ClC1=CC=C(C=C1)CC(C(C)N=[N+]=[N-])C1=CC(=CC=C1)C#N | C17H15ClN4
